US04316889
Step 1: Benzoyl-D-allo-Isoleucyl-L-proline dicyclohexyl-ammonium salt
19.2 g. (81.5 mmoles) of benzoyl-L-isoleucine (F. Ehrlich: Berichte 37, 1809 (1904) and 16.5 g. (80 mmoles) of dicyclohexyl-carbodiimide are dissolved in 150 ml. of methylene chloride cooled to 5° to 10° C. The solution is stirred in an ice bath for two hours, then 2 ml. of triethyl amine and 100 ml. of petroleum ether are added. The precipitated dicyclohexyl-urea is filtered off and washed with petroleum ether (2×20 ml.). The filtrate is extracted with water (2×50 ml.), 5 percent sodium hydrogen carbonate solution (2×50 ml.) and water, dried over sodium sulfate and evaporated at reduced pressure. The residue is dissolved in 80 ml. of pyridine, then 9.2 g. (80 mmoles) of L-proline and 22.4 ml. (160 mmoles) of triethylamine are added to the solution. The reaction mixture is stirred at room temperature for six hours, then is evaporated under reduced pressure. The residue is dissolved in a mixture of water (100 ml.) and ether (50 ml.), the aqueous phase is washed twice with ether (20 ml.), and the combined ether extracts are washed twice with water (20 ml.). The aqueous phases are combined and acidified with 5 N sulfuric acid to pH=2. The separated oil is extracted three times with ethyl acetate (50 ml.), the combined ethyl acetate is washed twice with water (20 ml.), dried over sodium sulfate and evaporated under reduced pressure. The residue is dissolved in 100 ml. of ether, thereafter 16 ml. of dicyclohexyl amine are poured to the solution. The crystals formed are filtered, washed with ether (3×20 ml.) and dried over concentrated sulfuric acid in vacuo. Yield 26.3 g. (64 percent of the theoretical yield) of the named compound. M.p. 117° to 118° C. RF1 =0.36 to 0.46 and 0.13 to 0.23 (dicyclohexylamine). Amino acid analysis: proline: 1.00 (base); allo-isoleucine: 0.92; isoleucine: 0.02.

reactant | benzoyl-L-isoleucine | 81.5 mmoles | C(C1=CC=CC=C1)(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C13H17NO3
reactant | dicyclohexyl-carbodiimide | 80 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | L-proline | 80 mmoles | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | allo-isoleucine | N[C@@H]([C@H](C)CC)C(=O)O | C6H13NO2
reactant | isoleucine | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 160 mmoles | C(C)N(CC)CC | C6H15N
product | Benzoyl-D-allo-Isoleucyl-L-proline dicyclohexyl-ammonium salt | C1(CCCCC1)[NH2+]C1CCCCC1.C(C1=CC=CC=C1)(=O)N[C@H]([C@@H](C)CC)C(=O)N1[C@H](C(=O)[O-])CCC1 | InChI=1S/C18H24N2O4.C12H23N/c1-3-12(2)15(19-16(21)13-8-5-4-6-9-13)17(22)20-11-7-10-14(20)18(23)24;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h4-6,8-9,12,14-15H,3,7,10-11H2,1-2H3,(H,19,21)(H,23,24);11-13H,1-10H2/t12-,14-,15+;/m0./s1
